US09376422B2
Step 2: Synthesis of methyl 3-((2-((tert-butoxycarbonyl)amino)ethyl)(methyl)amino)-5-chloro-2-methylbenzoate
To a stirred solution of methyl 3-((2-((tert-butoxycarbonyl)amino)ethyl)amino)-5-chloro-2-methylbenzoate (0.5 g, 1.46 mmol) in acetonitrile (10 mL), cesium carbonate (0.95 g, 2.92 mmol) and methyl iodide (1 g, 7.3 mmol) were added and the resulting reaction mixture heated at 80° C. for 12 h. On completion, the reaction mixture was cooled to room temperature and filtered, the residue washed with ethyl acetate and the filtrate concentrated before purification by column chromatography to afford desired product (0.325 g, 62%).

reactant | methyl 3-((2-((tert-butoxycarbonyl)amino)ethyl)amino)-5-chloro-2-methylbenzoate | 1.46 mmol, 0.5 g | C(C)(C)(C)OC(=O)NCCNC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C16H23ClN2O4
reactant | cesium carbonate | 2.92 mmol, 0.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 7.3 mmol, 1 g | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 3-((2-((tert-butoxycarbonyl)amino)ethyl)(methyl)amino)-5-chloro-2-methylbenzoate | 0.325 g, 62% | C(C)(C)(C)OC(=O)NCCN(C=1C(=C(C(=O)OC)C=C(C1)Cl)C)C | C17H25ClN2O4
